US06608027B1
To a solution of t-butyl isothiocyanate (5.0 mL; 39.41 mmol) in CH2Cl2 (200 mL) was added cyclopentylamine (4.67 mL; 47.29 mmol) followed by DIEA and the reaction mixture was stirred at RT for 2 h. The mixture was diluted with EtOAc, washed with 10% citric acid (2×), saturated NaHCO3 (2×), H2O (2×) and brine (1×). The organic layer was dried over anhydrous MgSO4, filtered and evaporated to dryness to obtain the t-butyl-cyclopentylthiourea as a white solid (3.70 g; 47% yield).

reactant | t-butyl isothiocyanate | 39.41 mmol, 5.0 mL | C(C)(C)(C)N=C=S | C5H9NS
reactant | cyclopentylamine | 47.29 mmol, 4.67 mL | C1(CCCC1)N | C5H11N
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | t-butyl-cyclopentylthiourea | 47% yield | C(C)(C)(C)N(C(=S)N)C1CCCC1 | C10H20N2S
